### PR TITLE
[Merged by Bors] - feat: joint continuity of the continuous functional calculus

### PR DESCRIPTION
**Pull request by j-loreaux**
This shows that the `cfc` (or `cfcₙ`), under the `IsometricContinuousFunctionalCalculus`, is Lipschitz with constant `1` in the function argument, when that argument is equipped with the metric of uniform convergence on a compact set containing the spectrum.

Consequently we derive the joint continuity of `cfc` in both arguments on the set `{f : 𝕜 →ᵤ[{s}] 𝕜 | ContinuousOn (toFun {s} f) s} ×ˢ {a | p a ∧ spectrum 𝕜 a ⊆ s}` where `s : Set 𝕜` is compact. This holds for `RCLike 𝕜`, but we also provide a version for `ℝ≥0`.

This PR continues the work from #25635.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25635

---

- [ ] depends on: #25827

### CODE REVIEW

**Comment by j-loreaux** [comment]
## Comments from Original PR #25635

*This section contains 2 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-06-09 22:09 UTC](https://github.com/leanprover-community/mathlib4/pull/25635#issuecomment-2957147115)):
### PR summary [4bc3282320](https://github.com/leanprover-community/mathlib4/pull/25635/commits/5c0416e811a59cb0e529c853f5959d8b9587f638)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
| `Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Continuity`|2|
| `Mathlib.Order.CompleteLattice.Group` (new file)|285|
| `Mathlib.Topology.MetricSpace.UniformConvergence` (new file)|1626|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ _root_.LipschitzWith.uniformEquicontinuous`
`+ continuousOn_cfc_nnreal_setProd`
`+ continuousOn_cfc_setProd`
`+ continuousOn_cfcₙ_nnreal_setProd`
`+ continuousOn_cfcₙ_setProd`
`+ continuous_of_forall_lipschitzWith`
`+ dist_eq_iSup`
`+ edist_continuousMapMk`
`+ edist_continuousRestrict`
`+ edist_continuousRestrict_of_singleton`
`+ edist_def'`
`+ iSup_mul_le`
`+ iSup₂_mul_le`
`+ instance : PseudoEMetricSpace (α →ᵤ β)`
`+ instance : PseudoEMetricSpace (α →ᵤ[𝔖] β)`
`+ instance [BoundedSpace β] : BoundedSpace (α →ᵤ β)`
`+ instance [BoundedSpace β] : BoundedSpace (α →ᵤ[𝔖] β)`
`+ instance [BoundedSpace β] : PseudoMetricSpace (α →ᵤ β)`
`+ instance [BoundedSpace β] : PseudoMetricSpace (α →ᵤ[𝔖] β)`
`+ instance {β : Type*} [EMetricSpace β] : EMetricSpace (α →ᵤ β)`
`+ instance {β : Type*} [MetricSpace β] [BoundedSpace β] : MetricSpace (α →ᵤ β)`
`+ isometry_ofFun_boundedContinuousFunction`
`+ isometry_ofFun_continuousMap`
`+ isometry_restrict`
`+ isometry_toContinuousMap`
`+ le_iInf_mul`
`+ le_iInf₂_mul`
`+ lipschitzOnWith_cfc_fun`
`+ lipschitzOnWith_cfc_fun_of_subset`
`+ lipschitzOnWith_cfcₙ_fun`
`+ lipschitzOnWith_cfcₙ_fun_of_subset`
`+ lipschitzWith_ofFun_iff`
`+ lipschitzWith_one_ofFun_toFun`
`+ lipschitzWith_one_ofFun_toFun'`
`+ lipschitzWith_restrict`
`+ nndist_eq_iSup`
`+ uniformContinuous_ofFun_toFun`
`++ edist_def`
`++ edist_eq_iSup`
`++ enorm_eq_iSup_enorm`
`++ lipschitzOnWith_iff`
`++ lipschitzWith_eval`
`++ lipschitzWith_iff`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

---

**@j-loreaux** ([2025-06-12 16:39 UTC](https://github.com/leanprover-community/mathlib4/pull/25635#issuecomment-2967529017)):
🤦 😆 I swear, I do actually read my own docstrings most of the time.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 1]
```diff
@@ -25,22 +26,50 @@ predicate `p` and their spectra are collectively contained in a compact set on w
...
+
+
++ `tendsto_cfc_fun`: If `F : X → R → R` tends to `f : R → R` uniformly on the spectrum of `a`, and
+  all these functions are continuous on the spectrum, then `fun x ↦ cfc (F x) a` tends
+  to `cfc f a`.
++ `Filter.Tendsto.cfc`: If `f : 𝕜 → 𝕜` is continuous on a compact set `s` and `a : X → A` tends to
+  `a₀ : A` along a filter `l` (such that eventually `a x` satisfies the predicate `p` associated to
+  `𝕜` and has spectrum contained in `s`, as does `a₀`), then `fun x ↦ cfc f (a x)` tends to
+  `cfc f a₀`.
++ `lipschitzWith_cfc_fun`: The function `f ↦ cfc f a` is Lipschitz with constant with constant 1
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
+ `lipschitzOnWith_cfc_fun`: The function `f ↦ cfc f a` is Lipschitz with constant with constant 1
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 2]
```diff
@@ -114,6 +143,46 @@ theorem Continuous.cfc_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+section Isometric
+
+variable {X R A : Type*} {p : A → Prop} [CommSemiring R] [StarRing R] [MetricSpace R]
+    [IsTopologicalSemiring R] [ContinuousStar R] [Ring A] [StarRing A]
+    [MetricSpace A] [Algebra R A] [IsometricContinuousFunctionalCalculus R A p]
+
+variable (R) in
+open UniformOnFun in
+open scoped ContinuousFunctionalCalculus in
+/-- The function `f ↦ cfc f a` is Lipschitz with constant with constant 1 with respect to
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfc f a` is Lipschitz with constant 1 with respect to
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 3]
```diff
@@ -114,6 +143,46 @@ theorem Continuous.cfc_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+  · intro f hf g hg
+    simp only
+    rw [cfc_apply .., cfc_apply .., isometry_cfcHom (R := R) a ha |>.edist_eq]
+    simp only [ENNReal.coe_one, one_mul]
+    rw [edist_continuousRestrict_of_singleton hf hg]
+  · simpa [cfc_apply_of_not_predicate a ha] using LipschitzWith.const' 0 |>.lipschitzOnWith
+
+open UniformOnFun in
+open scoped ContinuousFunctionalCalculus in
+/-- The function `f ↦ cfc f a` is Lipschitz with constant with constant 1 with respect to
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfc f a` is Lipschitz with constant 1 with respect to
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 4]
```diff
@@ -405,6 +501,48 @@ theorem Continuous.cfcₙ_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+
+variable {X R A : Type*} {p : A → Prop} [CommSemiring R] [StarRing R] [MetricSpace R] [Nontrivial R]
+    [IsTopologicalSemiring R] [ContinuousStar R] [NonUnitalRing A] [StarRing A]
+    [MetricSpace A] [Module R A] [SMulCommClass R A A] [IsScalarTower R A A]
+    [NonUnitalIsometricContinuousFunctionalCalculus R A p]
+
+variable (R) in
+open UniformOnFun in
+open scoped NonUnitalContinuousFunctionalCalculus in
+/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant with constant 1 with respect to
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant 1 with respect to
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 5]
```diff
@@ -405,6 +501,48 @@ theorem Continuous.cfcₙ_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+    simp only
+    rw [cfcₙ_apply .., cfcₙ_apply .., isometry_cfcₙHom (R := R) a ha |>.edist_eq]
+    simp only [ENNReal.coe_one, one_mul]
+    rw [← ContinuousMapZero.isometry_toContinuousMap.edist_eq,
+      edist_continuousRestrict_of_singleton hf hg]
+  · simpa [cfcₙ_apply_of_not_predicate a ha] using LipschitzWith.const' 0 |>.lipschitzOnWith
+
+open UniformOnFun in
+open scoped ContinuousFunctionalCalculus in
+/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant with constant 1 with respect to
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant 1 with respect to
```

**Comment by dupuisf** [comment]
Looks good, thanks!

bors r+
